US07935835B2
(30a) 7-(1,3-Dioxan-2-yl)-5-[2-(1,3-dioxan-2-yl)ethyl]heptane-1,5-diol
430 mg (5 mmol) of γ-butyrolactone was dissolved in 10 ml of tetrahydrofuran, and 22 ml (11 mmol) of 0.5 M (1,3-dioxan-2-ylethyl)magnesium bromide/tetrahydrofuran solution was added thereto with stirring under ice-cooling, followed by stirring for 3 hours at 50° C. After the reaction solution was cooled with ice, saturated aqueous ammonium chloride was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was subjected to silica gel column chromatography (solvent; ethyl acetate:ethanol=10:1) to give 880 mg of the title compound as a colorless oil (yield: 55%).

reactant | γ-butyrolactone | 5 mmol, 430 mg | C1(CCCO1)=O | C4H6O2
reactant | (1,3-dioxan-2-ylethyl)magnesium bromide tetrahydrofuran | 11 mmol, 0.5 M, 22 ml | O1C(OCCC1)CC[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-(1,3-Dioxan-2-yl)-5-[2-(1,3-dioxan-2-yl)ethyl]heptane-1,5-diol | 880 mg, yield: 55% | O1C(OCCC1)CCC(CCCCO)(O)CCC1OCCCO1 | C17H32O6
